* C:\Users\verme\Desktop\RatDistortion\Simulation (LTspice)\distortion sim.asc
C1 P001 0 2.2µ
C2 P002 0 4.7µ
C3 N008 N007 100p
C4 P003 N008 4.7µ
R1 N007 P001 47
R2 N007 P002 560
R4 N008 N007 100k
R5 N011 P003 1000
R6 N015 N014 1000
R7 0 Vin 1000000
R8 P004 N014 1000000
C5 N014 Vin 22n
C6 0 N015 1n
XU1 N015 N007 N009 0 N008 LT1001
D1 N011 0 1N914
D2 0 N011 1N914
V2 P004 0 4.5
V3 Vin 0 SINE(0 400m 330)
V1 N009 0 9
R3 P005 N011 50k
C7 N012 0 3.3n
R9 N013 0 1000000
J1 N010 N013 N016 2N5458
C8 N013 N012 22n
R10 N016 0 10000
C9 Vout N016 1µ
R12 Vout 0 100k
V4 N010 0 9
R14 N012 P005 1.5k
J2 N001 N004 N005 2N5458
R15 N005 0 10k
V5 N001 0 9
V6 N004 0 SINE(0 400m 330)
R16 N006 0 10k
V7 N002 0 9
V8 N003 0 SINE(0 400m 330)
Q1 N002 N003 N006 0 NPN
.model D D
.lib C:\Users\verme\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\verme\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\verme\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0.01
* low pass filter stage
* Output amp
* Distortion circuit
* R4 dis pot (100k)
* R3 filter pot (100k)
* R11+R12 vol pot (100k)
* Guitar in
* Load
.model 2N5458  NJF(Vto=-2.882 Beta=488.9u Lambda=3.167m Rd=1 Rs=1 Cgs=4.627p Cgd=4p Pb=.5 Is=181.3f Kf=4.284E-18 Af=1 Fc=.5)
* Test JFET\nas expected
* Test BJT\nAs seen in testing\nLooks like received JFET is a NPN\nFake 2N5458
.lib LTC.lib
.backanno
.end
